US06022880
3-(4-Pyridinylamino)benzo[b]thiophene hydrochloride
A solution of 3-aminobenzo[b]thiophene (3 g, 20 mmol) and 4-chloropyridine hydrochloride (3.5 g, 23 mmol) in 50 mL of 1-methyl-2-pyrrolidinone was stirred at 80° for three hours, and thereafter cooled, stirred with water, basified with sodium carbonate and extracted with ethyl acetate. The organic extract was washed with water and saturated sodium chloride solution and dried (anhydrous magnesium sulfate), filtered and concentrated to 8 g dark oil. Elution through silica with ethyl acetate via flash column chromatography yielded 5 g of an amber oil. Conversion to the hydrochloride salt in methanol-ether yielded 3 g of a hygroscopic solid. Recrystallization from 50% methanol in ether yielded 1.8 g of rust colored crystals, mp 268-270° (dec.).

reactant | 3-aminobenzo[b]thiophene | 20 mmol, 3 g | NC=1C2=C(SC1)C=CC=C2 | C8H7NS
reactant | 4-chloropyridine hydrochloride | 23 mmol, 3.5 g | Cl.ClC1=CC=NC=C1
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(4-Pyridinylamino)benzo[b]thiophene hydrochloride | 5 g | Cl.N1=CC=C(C=C1)NC=1C2=C(SC1)C=CC=C2 | InChI=1S/C13H10N2S.ClH/c1-2-4-13-11(3-1)12(9-16-13)15-10-5-7-14-8-6-10;/h1-9H,(H,14,15);1H
